US09126931B2
9-Ethyl-6,6-dimethyl-5-(2-morpholin-4-yl-ethyl)-8-(2-morpholin-4-yl-ethylamino)-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile
9-Ethyl-6,6-dimethyl-8-(2-morpholin-4-yl-ethylamino)-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile (10 mg) was dissolved in DMF (1 ml), added with K2CO3 (10 mg) and 1-(2-chloroethyl)morpholine (8 mg), and then stirred at 90° C. for 17 hrs. The reaction mixture was diluted with ethyl acetate (10 ml). The organic layer was washed with 10% brine and concentrated under reduced pressure. The resulting residues were purified by silica gel column (dichloromethane/methanol=99/1 to 90/10) to obtain the title compound (6.4 mg, yield 58%).

reactant | 9-Ethyl-6,6-dimethyl-8-(2-morpholin-4-yl-ethylamino)-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 10 mg | C(C)C1=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C=C1NCCN1CCOCC1 | C27H30N4O2
reactant | K2CO3 | 10 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 9-Ethyl-6,6-dimethyl-5-(2-morpholin-4-yl-ethyl)-8-(2-morpholin-4-yl-ethylamino)-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 6.4 mg, yield 58% | C(C)C1=CC2=C(C(C=3N(C4=CC(=CC=C4C3C2=O)C#N)CCN2CCOCC2)(C)C)C=C1NCCN1CCOCC1 | C33H41N5O3
